US04258061
N,N-Dioctadecyl-N',N'-bis(2-Phenylcarbamoyloxyethyl)-1,3-Propanediamine
Phenyl isocyanate (3.85 g.) is added to a warm solution of N,N-dioctadecyl-N',N'-bis(2-hydroxyethyl)-1,3-propanediamine (5.0 g.) in ethylacetate (20 ml.) and the mixture heated to reflux for one hour. The mixture is cooled, then taken to dryness under reduced pressure. The residue is triturated with carbon tetrachloride, filtered, and the filtrate evaporated to dryness. Ethyl acetate (25 ml.) is then added, the mixture cooled, filtered, washed with ethylacetate and dried in vacuo; m.p. 54°-6° C.

reactant | Phenyl isocyanate | 3.85 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N,N-dioctadecyl-N',N'-bis(2-hydroxyethyl)-1,3-propanediamine | 5.0 g | C(CCCCCCCCCCCCCCCCC)N(CCCN(CCO)CCO)CCCCCCCCCCCCCCCCCC | C43H90N2O2
solvent | ethylacetate | 20 ml | C(C)OC(C)=O | C4H8O2
product | N,N-Dioctadecyl-N',N'-bis(2-Phenylcarbamoyloxyethyl)-1,3-Propanediamine | C(CCCCCCCCCCCCCCCCC)N(CCCN(CCOC(NC1=CC=CC=C1)=O)CCOC(NC1=CC=CC=C1)=O)CCCCCCCCCCCCCCCCCC | C57H100N4O4
